US08466156B2
1.5. 6-chloro-2-phenyl-pyrimidine-4-carboxylic acid
To a solution of (6-chloro-2-phenyl-pyrimidin-4-yl)-methanol (240 g; prepared using a method analogous to the one described in WO 2006/114774, Example 24, intermediate 24.2) in acetone (2 L) was added an aq. NaHCO3 solution (15%, 961 mL). The mixture was cooled down to 5° C. and NaBr (11.2 g) followed by TEMPO (8.56 g) were added. TCCA (506 g) was then added portionwise over 1.5 h. The resulting mixture was stirred at RT for 1.5 h. The mixture was filtered through a pad of Celite and the solution was evaporated off. The residue was diluted in water/EA. The aq. phase was extracted with EA and the combined org. phases were dried (Na2SO4) and evaporated off. Recrystallization of the residue (EA/Hept) afforded the desired product as a beige solid (162.1 g).

reactant | (6-chloro-2-phenyl-pyrimidin-4-yl)-methanol | ClC1=CC(=NC(=N1)C1=CC=CC=C1)CO | C11H9ClN2O
reactant | NaHCO3 | 961 mL | C(=O)(O)[O-].[Na+]
reactant | NaBr | 11.2 g | [Na+].[Br-]
reactant | TCCA | 506 g | C1(=O)N(C(=O)N(C(=O)N1Cl)Cl)Cl | C3Cl3N3O3
solvent | acetone | 2 L | CC(=O)C | C3H6O
catalyst | TEMPO | 8.56 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | 6-chloro-2-phenyl-pyrimidine-4-carboxylic acid | 162.1 g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)C(=O)O | C11H7ClN2O2
